US06087357
To a stirred mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(carboxymethyl)-2-(1H-indol-3-ylmethyl)piperazine (0.2 g) and 3-azabicyclo[3.2.2]nonane (0.05 g) in dry N,N-dimethylformamide (2 ml) were added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.082 g) and 1-hydroxybenzotriazole (0.058 g) at room temperature. After 6 hours, the reaction mixture was poured into aqueous sodium bicarbonate solution (20 ml) and the resulting precipitate was collected by filtration. The crude product obtained was purified by column chromatography on silica gel using toluene-ethyl acetate (1:2) as an eluent and treated with 17.6% hydrogen chloride in ethanol solution to give (2R)-4-[(3-azabicyclo[3.2.2]non-3-yl) carbonylmethyl]-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)piperazine hydrochloride (0.2 g) as a white powder.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(carboxymethyl)-2-(1H-indol-3-ylmethyl)piperazine | 0.2 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC(=O)O)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C24H21F6N3O3
reactant | 3-azabicyclo[3.2.2]nonane | 0.05 g | C12CNCC(CC1)CC2 | C8H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.082 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.058 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (2R)-4-[(3-azabicyclo[3.2.2]non-3-yl) carbonylmethyl]-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)piperazine hydrochloride | 0.2 g | Cl.C12CN(CC(CC1)CC2)C(=O)CN2C[C@H](N(CC2)C(C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)CC2=CNC1=CC=CC=C21 | InChI=1S/C32H34F6N4O2.ClH/c33-31(34,35)24-11-22(12-25(14-24)32(36,37)38)30(44)42-10-9-40(19-29(43)41-16-20-5-6-21(17-41)8-7-20)18-26(42)13-23-15-39-28-4-2-1-3-27(23)28;/h1-4,11-12,14-15,20-21,26,39H,5-10,13,16-19H2;1H/t20?,21?,26-;/m1./s1
